US07700641B2
D. Synthesis of 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1-(Pyridin-2-ylmethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1-(pyridin-2-ylmethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (34%): MS (ES+) m/z 468.4 (M+1).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1-(pyridin-2-ylmethyl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CC1=NC=CC=C1)=O)C=1C(=CC2=C(CCO2)C1)O | C22H17BrN2O3
product | 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1-(Pyridin-2-ylmethyl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CC1=NC=CC=C1)=O)(CO)C=1C(=CC2=C(CCO2)C1)O | C23H19BrN2O4
